US09290451B2
(6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridin-2-yl)-thiomorpholin-4-yl-methanone
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid (Example 14 a) and thiomorpholine (CAN 123-90-0) as starting materials, MS (LC/MS): 348.1 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1CCCC1 | C14H18N2O3
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | (6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridin-2-yl)-thiomorpholin-4-yl-methanone | C1(CC1)COC1=C(C=CC(=N1)C(=O)N1CCSCC1)N1CCCC1 | C18H25N3O2S
